US06110896
N-(Methoxycarbonyl)ethyl-L-leucyl-L-phenylalanine N-methylamide
A solution of L-leucyl-L-phenylalanine N-methylamide (1.09 g) in ethanol (20 ml) was treated with methyl acrylate (0.33 ml). The resulting colourless solution was heated to 70° C. over 7.5 h. The crude product was purified by flash silica chromatography, eluting with ethyl acetate/methanol (9:1) to provide the title compound was isolated as a white solid (0.482 g).

reactant | L-leucyl-L-phenylalanine N-methylamide | 1.09 g | CNC([C@@H](NC([C@@H](N)CC(C)C)=O)CC1=CC=CC=C1)=O | C16H25N3O2
reactant | methyl acrylate | 0.33 ml | C(C=C)(=O)OC | C4H6O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-(Methoxycarbonyl)ethyl-L-leucyl-L-phenylalanine N-methylamide | CNC([C@@H](NC([C@@H](NCCC(=O)OC)CC(C)C)=O)CC1=CC=CC=C1)=O | C20H31N3O4
